US07576077B2
7-{[5-(3-chlorophenyl)-1,2,4-oxadiazol-3-yl]methyl}-3-pyridin-4-yl-6,7-dihydro-5H-pyrrolo[2,1-c][1,2,4]triazole
nBuLi (2.5 M, hex., 600 μl) was added to a solution of 3-pyridin-4-yl-6,7-dihydro-5H-pyrrolo[2,1-c][1,2,4]triazole (250 mg, 1.33 mmol) in THF (13 ml) at 0° C. After 10 min the reaction mixture was cooled to −78° C. and 3-(bromomethyl)-5-(3-chlorophenyl)-1,2,4-oxadiazole (400 mg, 1.46 mmol) in THF (10 ml) was added. After stirring at −78° C. for 30 min stirring was continued at 0° C. reaching r.t. o.n. Aq. sat. NH4Cl was added and the mixture was extracted with EA. The organic phase was washed with water and brine, dried and concentrated. Flash chromatography (DCM/MeOH 40:1) followed by preparative HPLC afforded 6.5 mg (1%) of the title compound. 1H NMR: 2.72 (m, 1H), 3.13 (m, 2H), 3.62 (m, 1H), 3.93 (m, 1H), 4.31 (m, 2H), 7.47 (t, 1H), 7.56 (m, 1H), 7.74 (d, 2H), 7.98 (m, 1H), 8.08 (m, 1H), 8.74 (m, 2H).

reactant | nBuLi | 2.5 M, 600 μl | [Li]CCCC
reactant | 3-pyridin-4-yl-6,7-dihydro-5H-pyrrolo[2,1-c][1,2,4]triazole | 1.33 mmol, 250 mg | N1=CC=C(C=C1)C=1N2C(=NN1)CCC2 | C10H10N4
reactant | 3-(bromomethyl)-5-(3-chlorophenyl)-1,2,4-oxadiazole | 1.46 mmol, 400 mg | BrCC1=NOC(=N1)C1=CC(=CC=C1)Cl | C9H6BrClN2O
reactant | NH4Cl | [NH4+].[Cl-]
solvent | THF | 13 ml | C1CCOC1 | C4H8O
solvent | THF | 10 ml | C1CCOC1 | C4H8O
product | 7-{[5-(3-chlorophenyl)-1,2,4-oxadiazol-3-yl]methyl}-3-pyridin-4-yl-6,7-dihydro-5H-pyrrolo[2,1-c][1,2,4]triazole | 6.5 mg, 1% | ClC=1C=C(C=CC1)C1=NC(=NO1)CC1CCN2C1=NN=C2C2=CC=NC=C2 | C19H15ClN6O
